US09375009B2
1-[5-(2-{[prop-2-yn-1-yl]oxy}phenyl)-4,5-dihydro-1,2-oxazol-3-yl]ethanone (VIIIa-a-81)
A solution of hydrochloric acid (4M in dioxane, 3.80 ml) was added to 1-hydroxyl-4,4-dimethoxy-1-(2-{[3-(trimethylsilyl)prop-2-yn-1-yl]oxy}phenyl)pentan-3-one oxime. After stirring for a further 15 minutes, concentrated sodium hydrogencarbonate solution was added to the reaction mixture, and the aqueous phase was removed and extracted with dichloromethane. The combined organic phases were dried over magnesium sulphate and concentrated. This gave 1-[5-(2-{[prop-2-yn-1-yl]oxy}phenyl)-4,5-dihydro-1,2-oxazol-3-yl]ethanone (315 mg, 99%).

reactant | hydrochloric acid | 4M, 3.80 ml | Cl | ClH
reactant | 1-hydroxyl-4,4-dimethoxy-1-(2-{[3-(trimethylsilyl)prop-2-yn-1-yl]oxy}phenyl)pentan-3-one oxime | OC(CC(C(C)(OC)OC)=NO)C1=C(C=CC=C1)OCC#C[Si](C)(C)C | C19H29NO5Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 1-[5-(2-{[prop-2-yn-1-yl]oxy}phenyl)-4,5-dihydro-1,2-oxazol-3-yl]ethanone | C(C#C)OC1=C(C=CC=C1)C1CC(=NO1)C(C)=O | C14H13NO3
